US06307047B1
2-(4-Fluorophenyl)-4-(4-fluorophenoxymethyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
To a homogeneous solution of 2-(4-fluorophenyl)-4-bromomethyl-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone, Example 194F, (107 mg, 0.246 mmol) and 4-fluorophenol (30.3 mg, 0.270 mmol) dissolved in acetone (4 mL) was added powdered K2CO3 (37.3 mg, 0.270 mmol). The mixture was stirred at 23° C. for 2 hours, filtered through a bed of Celite®, and concentrated in vacuo. The residue was chromatographed (flash silica gel, ethyl acetate/hexanes 3:2) to provide the product (yield: 83 mg, 72%). mp 65-80° C. 1H NMR (300 MHz, CDCl3) δ 3.12 (s, 3H), 4.94 (s, 2H), 6.78-6.86 (m, 2H), 6.91-7.00 (m, 2H), 7.15-7.24 (m, 2H), 7.65-7.72 (m, 2H), 7.74 (d, J=8.7 Hz, 2H), 7.93 (s, 1H), 8.08 (d, J=8.7 Hz, 2H). MS (APCI+) m/z 469 (M+H)+. Anal. calc. for C24H18F2N2O4S: C, 61.53; H, 3.87; N, 5.97. Found: C, 61.22; H, 3.63; N, 5.64.

reactant | 2-(4-fluorophenyl)-4-bromomethyl-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)CBr)C1=CC=C(C=C1)S(=O)(=O)C | C18H14BrFN2O3S
reactant | 4-fluorophenol | 0.270 mmol, 30.3 mg | FC1=CC=C(C=C1)O | C6H5FO
reactant | K2CO3 | 0.270 mmol, 37.3 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 4 mL | CC(=O)C | C3H6O
product | 2-(4-Fluorophenyl)-4-(4-fluorophenoxymethyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | yield: 83 mg, 72% | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)COC1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C24H18F2N2O4S
